US04092311
Ethyl 3-[6-(phenyl)-3-pyridazinyl]-3-methylcarbazate
A solution of 4.4 g. of 6-phenyl-3-(1-methylhydrazino)pyridazine, 3.4 g. of N,N-diisopropylethylamine and 50 ml. of dixane is prepared. To the solution is added 2.6 g. of ethyl chloroformate and the mixture is stirred for 2 hours. The solvent is removed under vacuum and to the residue is added ethanol and water. Filtration gives the product which is recrystallized from ethanol to give crystals, m.p. 129°-130° C.

reactant | 6-phenyl-3-(1-methylhydrazino)pyridazine | C1(=CC=CC=C1)C1=CC=C(N=N1)N(N)C | C11H12N4
reactant | N,N-diisopropylethylamine | C(C)(C)N(C(C)C)CC | C8H19N
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | Ethyl 3-[6-(phenyl)-3-pyridazinyl]-3-methylcarbazate | C1(=CC=CC=C1)C1=CC=C(N=N1)N(NC(=O)OCC)C | C14H16N4O2
